US08912188B2
To a solution of (S)-methyl 2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate (79 mg, 0.20 mmol) in methanol (15 mL) and CHCl3 (5 mL) was added NaOH (24 mg, 0.60 mmol) and water (1 mL). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (15 mL) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford (S)-2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (70 mg, 92%).

reactant | (S)-methyl 2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.20 mmol, 79 mg | N1C=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C24H24N4O2
reactant | NaOH | 0.60 mmol, 24 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-(1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid | 70 mg, 92% | N1C=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)O | C23H22N4O2
